* Frozen netlist snapshot for record 20260801-063652-617df5c
* source     : sim/bias-core-designer-check/testbench/tb_bias_core.spice
* sha256     : 6bc136cf787323952d86960559239a56ee2b6749a414da7be768619deab7180d
* This is a verbatim copy taken at record time. Do not edit.
* tb_bias_core -- GENERATED by sim/build_tb.py
* Do not edit. Sources:
*   sim/bias-core-designer-check/testbench/stimulus.spice
*   design/netlist/bias_core.spice  (sha256 0fe8df0ad0bfa42fe4ae7e176fe2db8282bbbabf78bc2daa486918a09c7de829)
* Regenerate with:
*   python3 sim/build_tb.py

* bias-core-designer-check -- stimulus half of the testbench fragment.
*
* The other half is a verbatim copy of design/netlist/bias_core.spice,
* appended by sim/build_tb.py to produce tb_bias_core.spice. Edit THIS file
* (or the schematic), never the generated fragment.
*
* Netlist FRAGMENT: no .include / .lib / .temp / .control / .end -- the
* harness owns those. Parameters it supplies: vdd_val, vdd_nom, temp_c.
*
* IBIAS LOAD CONVENTION. bias_core SOURCES its reference current into the
* IBIAS pin; every consumer puts a diode-connected nfet on that pin (see
* design/netlist/temp_core.spice XMBD, 4u/2u, and
* design/netlist/por_comparator.spice XMBD, 2u/2u). At the top level all
* three consumers hang off ONE net, so the load here is a verbatim replica
* of the two designed consumers' diodes in parallel -- not an idealised
* current sink. por_output_chain (#12) is still a placeholder and therefore
* contributes no diode yet; design/bias_core.md, "IBIAS fan-out", states what
* changes when it lands.
*
* Every DUT instance drives its own copy of that load, so no branch here can
* borrow another branch's bias.
*
* Five branches:
*
*   1. xdut     the cell at this PVT point's rail. The 0 V source vib is an
*               ammeter in the IBIAS path, so the record can split the cell's
*               total draw into the distribution share (the current it hands
*               to its consumers) and the core share (everything else) --
*               which is exactly the split spec/target-spec.md section 5 asks
*               #11 to produce.
*   2. xdead    an ELECTRICALLY IDENTICAL instance whose DC operating point is
*               seeded, via .nodeset, in the degenerate zero-current state
*               (mirror gate at VDD, every core node at 0 V, startup detector NK at 0 = 'dead'). If the loop had
*               a second stable DC solution the solver would settle in it from
*               that seed, exactly as sim/temp-core-designer-check/ caught for
*               the temp core's first startup detector. v(vrefd) landing on
*               the live value is the no-latched-state proof, per PVT point.
*   3-5. xr14 / xr20 / xr247
*               identical instances held at three FIXED absolute rails --
*               1.40 V (below the core's dropout), 2.00 V, and 2.47 V (the
*               MINIMUM ratified POR release threshold,
*               spec/target-spec.md#por-vth-rise). These are during-ramp
*               snapshots taken as DC points: they establish where BIAS_OK is
*               still low, and that by the earliest rail at which
*               por_comparator is allowed to release, VREF is already at its
*               settled value. They deliberately do NOT scale with vdd_val --
*               a ramp passes through the same absolute voltages whatever the
*               final rail is.
*
* Deterministic corners only: design.ngspice sets sw_stat_mismatch=0, so
* everything here bounds the systematic/corner term. The random share
* (PNP Is mismatch, input-pair and mirror Vt mismatch) is issue #15's job.

* ---- 1. the cell at this point's rail -------------------------------------
vsup vdd 0 dc {vdd_val}
xdut vdd 0 ibsrc vref bias_ok bias_core
vib ibsrc ibias dc 0
xldt ibias ibias 0 0 nfet_03v3 L=2u W=4u nf=1 m=1
xldc ibias ibias 0 0 nfet_03v3 L=2u W=2u nf=1 m=1

* ---- 2. same cell, DC solve seeded in the dead state -----------------------
vsupd vddd 0 dc {vdd_val}
xdead vddd 0 ibsrcd vrefd bias_okd bias_core
vibd ibsrcd ibiasd dc 0
xldtd ibiasd ibiasd 0 0 nfet_03v3 L=2u W=4u nf=1 m=1
xldcd ibiasd ibiasd 0 0 nfet_03v3 L=2u W=2u nf=1 m=1

* ---- 3/4/5. fixed-rail snapshots along the ramp ---------------------------
vs14 vdd14 0 dc 1.40
xr14 vdd14 0 ibsrc14 vref14 bias_ok14 bias_core
vib14 ibsrc14 ibias14 dc 0
xldt14 ibias14 ibias14 0 0 nfet_03v3 L=2u W=4u nf=1 m=1
xldc14 ibias14 ibias14 0 0 nfet_03v3 L=2u W=2u nf=1 m=1

vs20 vdd20 0 dc 2.00
xr20 vdd20 0 ibsrc20 vref20 bias_ok20 bias_core
vib20 ibsrc20 ibias20 dc 0
xldt20 ibias20 ibias20 0 0 nfet_03v3 L=2u W=4u nf=1 m=1
xldc20 ibias20 ibias20 0 0 nfet_03v3 L=2u W=2u nf=1 m=1

vs247 vdd247 0 dc 2.47
xr247 vdd247 0 ibsrc247 vref247 bias_ok247 bias_core
vib247 ibsrc247 ibias247 dc 0
xldt247 ibias247 ibias247 0 0 nfet_03v3 L=2u W=4u nf=1 m=1
xldc247 ibias247 ibias247 0 0 nfet_03v3 L=2u W=2u nf=1 m=1

* ---- dead-state seed for branch 2 -----------------------------------------
* Only xdead's nodes are seeded; every other instance keeps the solver's own
* default guess, so branch 1's answer is not influenced by this.
.nodeset v(xdead.pg)={vdd_val} v(xdead.nt)={vdd_val} v(xdead.na)=0 v(xdead.nb)=0
+ v(xdead.nc)=0 v(xdead.nre)=0 v(vrefd)=0 v(xdead.n1)=0 v(xdead.n2)=0
+ v(xdead.nk)=0 v(xdead.nkb)={vdd_val} v(xdead.pb)={vdd_val}

* bias_core -- generated by design/netlist.py from design/bias_core.sch
* Do not edit: edit the schematic and re-run the export.
** sch_path: design/bias_core.sch
.subckt bias_core VDD VSS IBIAS VREF BIAS_OK
*.PININFO VDD:B VSS:B IBIAS:O VREF:O BIAS_OK:O
XMP1 NA PG VDD VDD pfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP2 NB PG VDD VDD pfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP3 VREF PG VDD VDD pfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP4 IBIAS PG VDD VDD pfet_03v3 L=4u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMT NT PG VDD VDD pfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMS2P PG PB VDD VDD pfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBP PB PB VDD VDD pfet_03v3 L=8u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBN PB N1 VSS VSS nfet_03v3 L=8u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XQ1 VSS VSS NA pnp_10p00x10p00 m=1
XQ8A VSS VSS NC pnp_10p00x10p00 m=1
XQ8B VSS VSS NC pnp_10p00x10p00 m=1
XQ8C VSS VSS NC pnp_10p00x10p00 m=1
XQ8D VSS VSS NC pnp_10p00x10p00 m=1
XQ8E VSS VSS NC pnp_10p00x10p00 m=1
XQ8F VSS VSS NC pnp_10p00x10p00 m=1
XQ8G VSS VSS NC pnp_10p00x10p00 m=1
XQ8H VSS VSS NC pnp_10p00x10p00 m=1
XQR VSS VSS NRE pnp_10p00x10p00 m=1
XR1 NB NC VSS ppolyf_u_3k r_width=1u r_length=299u m=1
XR3 VREF NRE VSS ppolyf_u_3k r_width=1u r_length=3580u m=1
XMI1 N1 NA NT NT pfet_03v3 L=4u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMI2 N2 NB NT NT pfet_03v3 L=4u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XML1 N1 N1 VSS VSS nfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XML2 N2 N1 VSS VSS nfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMS2N PG N2 VSS VSS nfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCC PG NZ cap_mim_2f0_m3m4_noshield c_width=45u c_length=45u m=1
XRZ NZ N2 VSS ppolyf_u_3k r_width=2u r_length=366u m=1
XMSU4 NK PG VDD VDD pfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNAT NK VSS NSD VSS nfet_06v0_nvt L=50u W=0.8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=16
XRDEG NSD VSS VSS ppolyf_u_3k r_width=1u r_length=1600u m=1
XMSU3 VSS NK PG PG pfet_03v3 L=2u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNKP NKB NK VDD VDD pfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNKN NKB NK VSS VSS nfet_03v3 L=0.5u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMOKP NOK PG VDD VDD pfet_03v3 L=16u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMOKD NOK NK VDD VDD pfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMOKS NOK VREF VSS VSS nfet_03v3 L=8u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMHD NHD VREF VDD VDD pfet_03v3 L=2u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMHDL NHD N1 VSS VSS nfet_03v3 L=8u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMHBP NHDB NHD VDD VDD pfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMHBN NHDB NHD VSS VSS nfet_03v3 L=0.5u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNRP1 NRX NOK VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNRP2 BIAS_OK NHDB NRX VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNRN1 BIAS_OK NOK VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNRN2 BIAS_OK NHDB VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMOKZ BIAS_OK NKB VSS VSS nfet_03v3 L=0.5u W=16u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends
